US05681839
(±)-(3RS,4aRS,6SR,8aSR)-3,4,4a,5,6,7,8,8a-Octahydro-3-hydroxymethyl-6-((4-methoxyphenyl)methyl)quinolin-2[1H]-one
In a manner analogous to Example 6, but using THF solvent instead of CH2Cl2, ethyl 3,4,4a,5,6,7,8,8a-octahydro-6-((4-methoxyphenyl)methyl)quinolin-2[1H]-one-3-carboxylate was prepared as a 60:40 w/w mixture of (±)-(3RS,4aSR,6RS,8aRS) to (±)-(3SR,4aSR,6RS,8aRS) isomers). This product was suspended in THF (20 ml) at 0° C. and an ice cold solution of 1M lithium borohydride in THF (13.1 ml) was added. The mixture was left to stir 51/2 hours at 0° C. and then was added to methanolic hydrogen chloride (120 ml). The acidic solution was left to stand 18 hours and was then evaporated. The residue was dissolved in chloroform and washed with saturated sodium carbonate solution, water and then brine. The organic solution was dried (MgSO4), evaporated and the residual oil was left to stir in hexane containing a small quantity of ethyl acetate for 3 days. The resin obtained was purified by repeated chromatography on a 4 mm "Chromatotron" plate. The early running fractions were combined to give 0.2 g of the title compound. This was recrystallised from ethyl acetate mp 205°-209° C.

reactant | ethyl 3,4,4a,5,6,7,8,8a-octahydro-6-((4-methoxyphenyl)methyl)quinolin-2[1H]-one-3-carboxylate | COC1=CC=C(C=C1)CC1CC2CC(C(NC2CC1)=O)C(=O)OCC | C20H27NO4
reactant | lithium borohydride | 1M | [BH4-].[Li+]
reactant | hydrogen chloride | 120 ml | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 13.1 ml | C1CCOC1 | C4H8O
product | (±)-(3RS,4aRS,6SR,8aSR)-3,4,4a,5,6,7,8,8a-Octahydro-3-hydroxymethyl-6-((4-methoxyphenyl)methyl)quinolin-2[1H]-one | 0.2 g | OCC1C(NC2CCC(CC2C1)CC1=CC=C(C=C1)OC)=O | C18H25NO3
